US05627202
N-[(tert Butyloxy)carbonyl]-cis, trans-3-ethylproline methyl ester (29.1 g, 0.113 mol) was dissolved in CH3OH (114 mL) with cooling to 0° C., then treated with 1N NaOH (114 mL). After stirring for 20 h at 23° C., the solution was concentrated to remove the CH3OH and then extracted with EtOAc (3×). The organic layers were combined, dried (MgSO4), filtered, and concentrated to give 12.8 g of N-[(tert-Butyloxy)carbonyl]-cis-3-ethylproline methyl ester as an oil. The aqueous layer was acidified with solid citric acid and extracted with EtOAc (2×), the organic layers combined, dried (MgSO4), filtered, and concentrated to give N-[(tert Butyloxy)carbonyl]-trans 3-ethylproline as an oil. 1H NMR (CD3OD) δ3.86 and 3.78 (2 d, 1H, J=6 Hz), 3.33-3.58 (m, 2H), 2.01-2.22 (m, 2H), 1.5-1.74 (m, 2H), 1.33-1.5 (m, 1H), 1.45 and 1.42 (2 s, 9H), 0.98 (t, 3H, J=8 Hz).

reactant | trans-3-ethylproline methyl ester | 0.113 mol, 29.1 g | COC([C@H]1NCC[C@@H]1CC)=O | C8H15NO2
reactant | NaOH | 1N, 114 mL | [OH-].[Na+]
reactant | CH3OH | 114 mL | CO | CH4O
product | N-[(tert-Butyloxy)carbonyl]-cis-3-ethylproline methyl ester | 12.8 g | COC([C@H]1N(CC[C@H]1CC)C(=O)OC(C)(C)C)=O | C13H23NO4
